US04816582
54 g of ethyl 2-(2-amino-4-thiazolyl)-2-(Z)-hydroxyimino-acetate are dissolved in 500 ml of dimethylformamide. After the addition of 138 g of potassium carbonate, there are added dropwise within 1 hour 47 ml of chloroacetonitrile and the mixture is then stirred at room temperature for 20 hours. The dark solution obtained is poured into ice-water and extracted with ethyl acetate. The organic phase is washed with water, treated with active carbon, dried over magnesium sulphate and concentrated. After recrystallization from toluene, there are obtained 38 g of ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetate of melting point 167°-168° C.

reactant | ethyl 2-(2-amino-4-thiazolyl)-2-(Z)-hydroxyimino-acetate | 54 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O | C7H9N3O3S
reactant | potassium carbonate | 138 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 47 ml | ClCC#N | C2H2ClN
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetate | 38 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCC#N | C9H10N4O3S
